US06313122B1
C. N1-(3-Hydroxybenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2-benzenediamine
A mixture of N1-(3-benzyloxybenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2-benzenediamine (75 mg, 0.14 mmol) and 5% palladium-on-carbon (200 mg) in ethanol (4 mL) was placed under an atmosphere of hydrogen (1 atm). After consumption of the starting material, the mixture was filtered through diatomaceous earth and the filtrate concentrated in vacuo yielding 30 mg (48%) of the title compound.

reactant | N1-(3-benzyloxybenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2-benzenediamine | 0.14 mmol, 75 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC=2C(=CC=CC2)NC(=O)OC(C2=CC=NC=C2)C2CCNCC2)C=CC1 | C32H32N4O4
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | palladium-on-carbon | 200 mg | [Pd] | Pd
product | N1-(3-Hydroxybenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2-benzenediamine | 30 mg, 48% | OC=1C=C(C(=O)NC=2C(=CC=CC2)NC(=O)OC(C2=CC=NC=C2)C2CCNCC2)C=CC1 | C25H26N4O4
